US06548506B2
A suspension of 3.07 g of 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 7.21 g of 4-(4-fluorophenyl)-piperazine in 30 cm3 of pyridine was heated at a temperature around 115° C. for 84 hours. The reaction mixture was concentrated under reduced pressure (20 kPa) at approximately 60° C. The solid obtained was taken up in 50 cm3 of water and 3.5 cm3 of 10% acetic acid were added. The suspension was brought to approximately 100° C. The solidified product was filtered off and washed 3 times with 30 cm3 and 3 times 30 cm3 of warm ethanol. After recrystallizing twice from 65 cm3 of dimethylformamide on each occasion, 2.82 g of 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at about 318-319° C.

reactant | 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 3.07 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C14H8ClFN2O3
reactant | 4-(4-fluorophenyl)-piperazine | 7.21 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | acetic acid | 3.5 cm3 | C(C)(=O)O | C2H4O2
solvent | pyridine | 30 cm3 | N1=CC=CC=C1 | C5H5N
solvent | water | 50 cm3 | O | H2O
product | 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 2.82 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCN(CC1)C1=CC=C(C=C1)F | C24H20F2N4O3
